US06809199B2
To a solution of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one (20.0 mg, 0.035 mmol) in ethyl acetate (2 mL) was added 10% Pd/C (14.5 mg) under argon. Hydrogen was bubbled through and the reaction mixture was stirred under hydrogen for 1.5 h. The reaction flask was purged with argon. The catalyst was filtered off washing with methanol. The filtrate was concentrated under reduced pressure to yield 7-amino-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one. Mass spectrum (ESI) 538.2 (M+1).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one | 0.035 mmol, 20.0 mg | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C28H20Cl3N3O4
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 14.5 mg | [Pd] | Pd
product | 7-amino-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | NC1=CC(=C2CN(C(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC)C1=C(C=CC=C1)Cl | C28H22Cl3N3O2
